US04935431
(b) 3-Methoxy-6-butyrylthieno[3,2-b]pyridin-7(4H)-one
To a refluxing solution of diphenyl ether (200 ml) was added ethyl 2-butyryl-3-(4-methoxy-3-thienylamino)-prop-2-enoate (16 g, 0.0539 mol) portionwise. On completion of the addition refluxing was continued for a further 20 minutes. The reaction mixture was allowed to cool and then diluted with petroleum ether to give a pale yellow solid, 11.85 g, m.p. 222°-225°.

reactant | ethyl 2-butyryl-3-(4-methoxy-3-thienylamino)-prop-2-enoate | 0.0539 mol, 16 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=CSC=C1OC | C14H19NO4S
solvent | diphenyl ether | 200 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-Methoxy-6-butyrylthieno[3,2-b]pyridin-7(4H)-one | COC1=CSC2=C1NC=C(C2=O)C(CCC)=O | C12H13NO3S
